US07019146B1
Under ice cooling, 0.57 mL (4 mmols) of triethylamine was added to a mixture of 0.5 g (2 mmols) of ferroceneacetic acid (manufactured by Tokyo Kasei Kogyo Co., Ltd.), 0.44 mL (2 mmols) of diphenylphosphyrylazide and 4 mL of toluene. The mixture was stirred at room temperature for 30 minutes. The reaction mixture was diluted with dichloromethane. The dilution was washed sequentially with a 1% hydrochloric acid aqueous solution and saturated sodium hydrogencarbonate solution. After drying over anhydrous magnesium sulfate, the organic layer was filtered and concentrated under reduced pressure to give 4 mL of the toluene solution. To the toluene solution obtained, 2 mL of toluene was added and 0.32 g (3 mmols) of ethyl carbazate was added to the mixture while stirring at room temperature. The mixture was then heated under reflux for 3 hours and diluted with dichloromethane. The dilution was washed sequentially with a 1% hydrochloric acid aqueous solution and saturated sodium hydrogencarbonate solution. After drying over anhydrous magnesium sulfate, the organic layer was filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform:methanol=20:1) to give 0.55 g (78%) of ethyl 3-(ferrocenylmethyl)carbamoylcarbazate as a yellow oily substance.

reactant | triethylamine | 4 mmols, 0.57 mL | C(C)N(CC)CC | C6H15N
reactant | ferroceneacetic acid | 2 mmols, 0.5 g | [C-]1(C=CC=C1)CC(=O)O.[CH-]1C=CC=C1.[Fe+2]
reactant | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
reactant | ethyl carbazate | 3 mmols, 0.32 g | C(NN)(=O)OCC | C3H8N2O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl 3-(ferrocenylmethyl)carbamoylcarbazate | 0.55 g, 78% | [C-]1(C=CC=C1)CNC(=O)NNC(=O)OCC.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C10H14N3O3.C5H5.Fe/c1-2-16-10(15)13-12-9(14)11-7-8-5-3-4-6-8;1-2-4-5-3-1;/h3-6H,2,7H2,1H3,(H,13,15)(H2,11,12,14);1-5H;/q2*-1;+2
